US05559224
Next, 36.4 g of thiobenzoic acid was dissolved in 300 ml of dimethylformamide and cooled on an ice bath, to which was subsequently added 10.5 g of sodium hydride. To this were added 102 g of (2S,4R)-1-(t-butoxycarbonyl)-2-ethoxycarbonyl -4-(p-toluenesulfonyloxy)pyrrolidine dissolved in 200 ml of dimethylformamide and 37.5 g of sodium iodide, followed by heating at 80° C. for 3 hours. After concentration of the reaction mixture, the thus obtained residue was dissolved in .benzene, and the resulting organic layer was washed with 5% sodium bicarbonate aqueous solution, 10% citric acid aqueous solution and water in that order, followed by drying over sodium sulfate and subsequent evaporation of the solvent under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to yield 66 g of (2S,4S)-1-(t-butoxycarbonyl)-2-ethoxycarbonyl -4-benzoylthiopyrrolidine.

reactant | thiobenzoic acid | 36.4 g | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydride | 10.5 g | [H-].[Na+]
reactant | (2S,4R)-1-(t-butoxycarbonyl)-2-ethoxycarbonyl -4-(p-toluenesulfonyloxy)pyrrolidine | 102 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C1=CC=C(C=C1)C)C(=O)OCC | C19H27NO7S
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | sodium iodide | 37.5 g | [I-].[Na+]
product | (2S,4S)-1-(t-butoxycarbonyl)-2-ethoxycarbonyl -4-benzoylthiopyrrolidine | 66 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)=O)C(=O)OCC | C19H25NO5S
